US07829572B2
2-(2-(difluoromethyl)phenyl)-3-phenethyl-5-(trifluoromethyl)pyrido[4,3-d]pyrimidin-4(3H)-one
Prepared analogous to Example 1 starting from 2-(difluoromethyl)benzaldehyde and 4-Amino-N-phenethyl-2-(trifluoromethyl)nicotinamide. 1H NMR (400 MHz, CDCl3) δ 8.88 (d, 1H), 7.77 (d, 1H), 7.72 (d, 1H), 7.69 (t, 1H), 7.61 (t, 1H), 7.19 (m, 4H), 6.89 (m, 2H), 6.77 (t, 1H), 4.28 (m, 1H), 3.78 (m, 1H), 2.95 (m, 2H). MS m/z 446.4 (M+H)+.

reactant | 2-(difluoromethyl)benzaldehyde | FC(C1=C(C=O)C=CC=C1)F | C8H6F2O
reactant | 4-Amino-N-phenethyl-2-(trifluoromethyl)nicotinamide | NC1=CC=NC(=C1C(=O)NCCC1=CC=CC=C1)C(F)(F)F | C15H14F3N3O
product | 2-(2-(difluoromethyl)phenyl)-3-phenethyl-5-(trifluoromethyl)pyrido[4,3-d]pyrimidin-4(3H)-one | FC(C1=C(C=CC=C1)C=1N(C(C2=C(N1)C=CN=C2C(F)(F)F)=O)CCC2=CC=CC=C2)F | C23H16F5N3O
